US04439448
A solution of 9.13 g (0.0385 mole) of ethyl 2-(4-nitrophenyl)-n-butyrate in 150 ml of ethanol was subjected to hydrogenation in the presence of palladium black catalyst to give 7.51 g (0.0363 mole, 94% yield) of ethyl 2-(4-aminophenyl)-n-butyrate.

reactant | ethyl 2-(4-nitrophenyl)-n-butyrate | 0.0385 mole, 9.13 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OCC)CC | C12H15NO4
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium black | [Pd] | Pd
product | ethyl 2-(4-aminophenyl)-n-butyrate | 0.0363 mole, 7.51 g, 94% yield | NC1=CC=C(C=C1)C(C(=O)OCC)CC | C12H17NO2
